US07229986B2
3,4-Dihydro-6-(3-iodopropyl)-4-(2-naphthalenesulfonyl)-2H-1,4-benzoxazine
1 N borane/THF solution (150 ml, 150 mmol) was added to a solution of methyl 3-(3,4-dihydro-2H-1,4-benzoxazine-3-oxo-6-yl)propionate (24 g, 102 mmol) obtained in 1) above in THF (400 ml) under cooling with ice-bath. The reaction solution was stirred overnight at room temperature, then 6 N hydrochloric acid (50 ml, 300 mmol) was added to the reaction solution which was then stirred for 2 hours, neutralized with 6 N aqueous sodium hydroxide and extracted with ethyl acetate. The extract was washed with water and a saturated saline solution, dried over magnesium sulfate, and concentrated. After triethylamine (25 g, 250 mmol) was added to a solution of the residues in acetonitrile (300 ml), a solution of 2-naphthalene sulfonyl chloride (56 g, 250 mmol) in acetonitrile (100 ml) was added thereto under cooling with ice-bath and stirred at room temperature for 4 hours. The reaction solution was concentrated, and water was added to the residues which were then extracted with ethyl acetate. The extract was washed with water and a saturated saline solution, dried over magnesium sulfate and concentrated. Sodium iodide (37.5 g, 250 mmol) was added to a solution of the residues in acetone (500 ml), and the mixture was stirred overnight at room temperature. The reaction solution was concentrated, and water (500 ml) was added to the concentrate which was then extracted with ethyl acetate. The extract was washed with water and a saturated saline solution, dried over magnesium sulfate and concentrated, whereby the title compound (22 g) was obtained as powder.

reactant | borane THF | 150 mmol, 1 N, 150 ml | B.C1CCOC1
reactant | hydrochloric acid | 300 mmol, 6 N, 50 ml | Cl | ClH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
reactant | triethylamine | 250 mmol, 25 g | C(C)N(CC)CC | C6H15N
reactant | 2-naphthalene sulfonyl chloride | 250 mmol, 56 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | Sodium iodide | 250 mmol, 37.5 g | [I-].[Na+]
reactant | THF | 400 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3,4-Dihydro-6-(3-iodopropyl)-4-(2-naphthalenesulfonyl)-2H-1,4-benzoxazine | 22 g | ICCCC=1C=CC2=C(N(CCO2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C1 | C21H20INO3S
